US07872022B2
c) 4-(4-Fluoro-phenyl)-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester
A mixture of 4-(4-fluoro-phenyl)-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (6.8 g, 20 mmol), 100 ml 1,4-dioxane and 100 ml 2 M NaOH was stirred at RT for 20 h. After extraction of the reaction mixture with two portions of tert-butyl methyl ether, the combined organic layers were extracted with 1 M aqueous sodium hydroxide solution (100 ml). The combined aqueous layers were cooled to 0° C. by addition of ice (150 g) and acidified to pH 1 with ice-cold 4 M aqueous hydrochloric acid solution (70 ml). The aqueous layer was extracted with three 150 ml-portions of ethyl acetate. The combined organic layers were washed with brine (50 ml), dried over sodium sulfate and concentrated in vacuo. Crystallization of the crude acid (6.4 g) from a mixture of n-heptane and ethyl acetate (19:1, 120 ml) gave the title compound as white crystals (5.1 g, 78%).

reactant | 4-(4-fluoro-phenyl)-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 20 mmol, 6.8 g | COC(=O)C=1CN(CCC1C1=CC=C(C=C1)F)C(=O)OC(C)(C)C | C18H22FNO4
reactant | NaOH | 2 M, 100 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-(4-Fluoro-phenyl)-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester | 5.1 g, 78% | C(C)(C)(C)OC(=O)N1CC(=C(CC1)C1=CC=C(C=C1)F)C(=O)O | C17H20FNO4
